US05081253
2-[[[3-(Trifluoromethyl)phenyl]methyl]-sulfinyl]-1H-imidazo[4,5-c]pyridine
2-[[[3-(Trifluoromethyl)phenyl]methyl]thio]-1H-imidazo[4,5-c]pyridine (0.91 g, 0.0029 mol) was dissolved in 10 mL of ethanol. An oxidizing solution was prepared by dissolving 0.32 g (0.0029 mol) of selenium dioxide in 17 mL of ethanol by heating and adding 0.33 g (0.0029 mol) of 30% hydrogen peroxide and 0.25 mL of water. The oxidizing solution was added dropwise to the sulfide solution and the reaction mixture was stirred overnight at room temperature. Water (20 mL) was added to the reaction mixture which was then extracted with chloroform (3×25 mL). The combined organic layers were dried over magnesium sulfate, filtered and evaporated to dryness. The residue amounted to 0.65 g. Purification by HPLC gave a product which on recrystallization from ethanol had a m.p. 194°-197° C.

reactant | 2-[[[3-(Trifluoromethyl)phenyl]methyl]thio]-1H-imidazo[4,5-c]pyridine | 0.0029 mol, 0.91 g | FC(C=1C=C(C=CC1)CSC=1NC2=C(C=NC=C2)N1)(F)F | C14H10F3N3S
reactant | selenium dioxide | 0.0029 mol, 0.32 g | [Se](=O)=O | O2Se
reactant | hydrogen peroxide | 0.0029 mol, 0.33 g | OO | H2O2
reactant | water | 0.25 mL | O | H2O
reactant | Water | 20 mL | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 17 mL | C(C)O | C2H6O
product | 2-[[[3-(Trifluoromethyl)phenyl]methyl]-sulfinyl]-1H-imidazo[4,5-c]pyridine | FC(C=1C=C(C=CC1)CS(=O)C=1NC2=C(C=NC=C2)N1)(F)F | C14H10F3N3OS
